US07148226B2
4-Bromo-2-ethyl-phenol
Sodium hydroxide (1.4 g, 35 mmol) and hydrazine monohydrate (2.04 mL, 42 mmol) were added to a solution of 5′-bromo-2′-hydroxyacetophenone (3 g, 14 mmol) dissolved in triethylene glycol (17 mL). The reaction mixture was heated to 170° C. for 24 h and then partitioned between 1 N HCl and EtOAc. The organic layer was washed with saturated NaHCO3, brine, dried over Na2SO4 and concentrated. The residue was purified by flash silica gel chromatography (0% to 10% EtOAc in hexanes) to give the title compound (2.52 g, 90%).

reactant | Sodium hydroxide | 35 mmol, 1.4 g | [OH-].[Na+]
reactant | hydrazine monohydrate | 42 mmol, 2.04 mL | O.NN
reactant | 5′-bromo-2′-hydroxyacetophenone | 14 mmol, 3 g | BrC=1C=CC(=C(C1)C(C)=O)O | C8H7BrO2
solvent | triethylene glycol | 17 mL | C(COCCOCCO)O | C6H14O4
product | 4-Bromo-2-ethyl-phenol | 2.52 g, 90% | BrC1=CC(=C(C=C1)O)CC | C8H9BrO
